US05789595
1.5 g of 7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride was dissolved in 20 ml of ethanol, and 2.9 g of sodium hydrogencarbonate, 2.3 g of ethyl bromopropionate, and a catalytic amount of potassium iodide were added to the solution. The resulting solution was heated and stirred overnight under reflux. The resulting solution was extracted with ethyl acetate, washed with water and saturated aqueous solution of sodium chloride, and then dried with anhydrous sodium sulfate. After separating the desiccant by filtration, the product was purified by silica gel column chromatography to obtain 1.1 g of 2-(2-(ethoxycarbonyl)ethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline (yield: 57%, oily product).

reactant | 7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.5 g | Cl.[N+](=O)([O-])C1=CC=C2CCNCC2=C1
reactant | sodium hydrogencarbonate | 2.9 g | C(O)([O-])=O.[Na+]
reactant | ethyl bromopropionate | 2.3 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium iodide | [I-].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(2-(ethoxycarbonyl)ethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline | 1.1 g, yield: 57% | C(C)OC(=O)CCN1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C14H18N2O4
